### PR TITLE
feat(RingTheory/Valuation): make tactic rw_val_equiv

### PR DESCRIPTION
**Pull request by kckennylau**
Co-authored by Aaron Liu and Bhavik Mehta.

A tactic to rewrite relations such as `max (v₁ x) (v₁ y) * v₁ z < 1` into `max (v₂ x) (v₂ y) * v₂ z < 1` , given `h : v₁.IsEquiv v₂`.

Allowed relations are `≤`, `<`, `=`, `≠`.

Allowed operations are: `0`, `1`, `v₁ r`, `⁻¹`, `^` (both `ℕ` and `ℤ`), `*`, `/`, `min`, `max`.

Examples:
```lean
example {R Γ₁ Γ₂ : Type} [Ring R]
    [LinearOrderedCommMonoidWithZero Γ₁] [LinearOrderedCommMonoidWithZero Γ₂]
    {v₁ : Valuation R Γ₁} {v₂ : Valuation R Γ₂}
    (h : v₁.IsEquiv v₂) {y z : R} :
    {x | v₁ x ^ 2 * min (v₁ y) (v₁ z) ≤ 1} = {x | v₂ x ^ 2 * min (v₂ y) (v₂ z) ≤ 1} := by
  rw_val_equiv h
```

It is also possible to use `←` to rewrite in the opposite direction, and to use `at h1 h3 ⊢` to specify which hypotheses (and/or goal) to rewrite, similar to the syntax of `rw`. There is also `rwa_val_equiv` to work like `rwa`.

---

Zulip: [#Is there code for X? > Tactics for comparing equivalent valuations](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Tactics.20for.20comparing.20equivalent.20valuations)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 1]
```diff
@@ -472,29 +474,273 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+
+variable [Ring R]
+  {Γ₁ Γ₂ : Type*} [LinearOrderedCommMonoidWithZero Γ₁] [LinearOrderedCommMonoidWithZero Γ₂]
+  {v₁ : Valuation R Γ₁} {v₂ : Valuation R Γ₂}
+  (h : v₁.IsEquiv v₂)
+  {x x₁ x₂ y y₁ y₂ z w : R}
+
+/-- If `v₁.Equiv v₂`, then the value monoids of `v₁` and `v₂` are isomorphic, and this `Prop` is
+precisely the condition that the isomorphism sends `x : Γ₁` to `y : Γ₂`. -/
+inductive Associated' (h : v₁.IsEquiv v₂) : Γ₁ → Γ₂ → Prop where
```
Comment (plp127) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Can we use one definition that works for both value monoids and value groups?

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I thought about it before and concluded that it was impossible because Linear Monoid doesn't include the left cancellation axiom.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 2]
```diff
@@ -472,29 +474,447 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+
+/-- A tactic to rewrite expressions in a goal (e.g. `v₁ x ≤ 1`) with an equivalent one in the other
+value group or monoid (e.g. `v₂ x ≤ 1`), given `h : v₁.IsEquiv v₂`. -/
+elab "rw_val_equiv" equiv:(ppSpace colGt term:max) : tactic => do
+  let hE : Expr ← elabTerm equiv none
+  let ⟨0, h', h⟩ ← inferTypeQ hE | throwError "given term is not a proof"
+  match h' with
+  | ~q(@Valuation.IsEquiv $R $Γ₁ $Γ₂ $hR $hΓ₁ $hΓ₂ $v₁ $v₂) =>
+      liftMetaTactic1 fun e ↦ do
+        trace[debug] m!"Variables: {v₁}, {v₂}, {h}"
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: we probably don't want this to remain present

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 3]
```diff
@@ -472,29 +474,447 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+  | ~q($a = $b) => mkProof v₁ v₂ h .eq a b
+  | ~q($a ≠ $b) => mkProof v₁ v₂ h .ne a b
+  | _ => return .none
+
+/-- The core simproc of `rw_equiv_tac`. Given `h : IsEquiv v₁ v₂`, find relations in `Γ₁` and
+transport them to `Γ₂`. -/
+def equivCore (h : Q(Valuation.IsEquiv $v₁ $v₂)) : Simp.Simproc := fun e : Expr ↦ do
+  match ← inferTypeQ e with
+  | ⟨1, ~q(Prop), e⟩ =>
+    trace[debug] m!"Prop found: {e}"
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: same here

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 4]
```diff
@@ -472,29 +474,447 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+omit h in
+example {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+    (f : Γ₁ →*₀ Γ₀) (hf : Monotone f) (h : v₁.IsEquiv (v₁.map f hf)) :
+    {x | v₁.map f hf x < 1} = {x | v₁ x < 1} := by
+  rw_val_equiv h.symm
+
+end testcases
+
+theorem le_div_iff_le_div : v₁ x ≤ v₁ y / v₁ z ↔ v₂ x ≤ v₂ y / v₂ z := by
+  rw_val_equiv h
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: it should also work if you have three valuations, and instead of h it's `h.trans h'`, maybe you'd like to test that too

**Review by b-mehta — COMMENTED** [review]
looks reasonable to me, i'd like @eric-wieser to have a look too though

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 3 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 2 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done

Comment (b-mehta) [reply Mathlib/RingTheory/Valuation/Basic.lean]: if you want to keep trace options then that's probably reasonable, but they shouldn't be just under debug!

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 4 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I tested custom terms in the example above, which uses `v₁.map f hf`.

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Also arguably `h.symm` is also a proof that custom terms work (this time in the `IsEquiv`).

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 5]
```diff
@@ -472,29 +474,445 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
 
-lemma lt_one_iff_lt_one (h : v₁.IsEquiv v₂) {x : R} :
-    v₁ x < 1 ↔ v₂ x < 1 := by
+lemma lt_one_iff_lt_one : v₁ x < 1 ↔ v₂ x < 1 := by
   rw [← v₁.map_one, h.lt_iff_lt, map_one]
 
+/-- If `v₁.Equiv v₂`, then the value monoids of `v₁` and `v₂` are isomorphic, and this `Prop` is
+precisely the condition that the isomorphism sends `x : Γ₁` to `y : Γ₂`. This is an auxiliary
+definition for the tactic `rw_val_equiv`. -/
+inductive Associatedₘ (h : v₁.IsEquiv v₂) : Γ₁ → Γ₂ → Prop where
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: We often use the `Tactic` namespace for things which are auxiliary for a tactic, but in this case maybe that's awkward since it's `IsEquiv.`?

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Valuation/Basic.lean]: (although the `h.symm` example kind of tests the fact that `h` can be a generic term too)

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 5 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: well arguably it can also be useful in mainspace.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 6]
```diff
@@ -472,29 +474,445 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+elab "rw_val_equiv" equiv:(ppSpace colGt term:max) : tactic => do
+  let hE : Expr ← elabTerm equiv none
+  let ⟨0, h', h⟩ ← inferTypeQ hE | throwError "given term is not a proof"
+  match h' with
+  | ~q(@Valuation.IsEquiv $R $Γ₁ $Γ₂ $hR $hΓ₁ $hΓ₂ $v₁ $v₂) =>
+      liftMetaTactic1 fun e ↦ do
+        let target ← instantiateMVars (← e.getType)
+        let ctx ← Simp.mkContext (simpTheorems := #[])
+        let (r, _) ← Simp.mainCore target ctx (methods := {post := equivCore v₁ v₂ h})
+        let i ← applySimpResultToTarget e target r
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: afaik, this is a new pattern, perhaps a few comments explaining what's going on could make sense

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done:
```
    -- `Simproc` usually does not allow arguments, so we hijacked `Simp.mainCore` to provide a
    -- `Simproc` that accepts arguments (which is `equivCore` here).
```

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 7]
```diff
@@ -472,29 +474,442 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
   rw [← v₁.map_one, h.lt_iff_lt, map_one]
 
+/-- If `v₁.Equiv v₂`, then the value monoids of `v₁` and `v₂` are isomorphic, and this `Prop` is
+precisely the condition that the isomorphism sends `x : Γ₁` to `y : Γ₂`. This is an auxiliary
+definition for the tactic `rw_val_equiv`. -/
+inductive Associatedₘ (h : v₁.IsEquiv v₂) : Γ₁ → Γ₂ → Prop where
+  | zero : h.Associatedₘ 0 0
+  | one : h.Associatedₘ 1 1
+  | value {z : R} : h.Associatedₘ (v₁ z) (v₂ z)
+  | pow {x : Γ₁} {y : Γ₂} (hxy : h.Associatedₘ x y) (n : ℕ) : h.Associatedₘ (x ^ n) (y ^ n)
```
Comment (b-mehta) [inline Mathlib/RingTheory/Valuation/Basic.lean]: you could deduce `pow` from `one` and `mul`, which I think is a good idea if you want `Associated_m` to be not auxiliary/private

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I don't understand this comment. Having more cases makes it easier to construct `Associatedₘ x y`, and the destruction of `Associatedₘ x y` is given by the theorem `exists_eq (hxy : h.Associatedₘ x y) : ∃ r : R, v₁ r = x ∧ v₂ r = y`.

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: The intended term-mode use is [L607](https://github.com/leanprover-community/mathlib4/pull/28072/files#diff-d719c2dc39b129cb0258cc432e3d8747c89e68ee058d932ba4c693cd1192dd76R607) below: `exact Associatedₘ.le_iff_le (h := h) (.mul .value .value) (.mul .value .value)`. Adding or removing constructors from the inherent definition of `Associatedₘ` actually won't change anything, you will still have the same number of constructors and destructors (again, the only intended destructor is `exsts_eq`).

Comment (b-mehta) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Having more cases makes it easier to construct, but you can just prove the `pow` lemma directly from the others, so that's not a real justification. Whereas having more cases makes it harder to destruct, which isn't something that can be easily worked around. I don't see why you have the same number of constructors if you remove a constructor! And the only destructor that you intended is that one, but I don't think that's good enough reason to make destruction in someone else's manner harder.

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: What I'm claiming is that all of the declarations will be unchanged regardless of what we put under `inductive`. That is to say, we will have exactly the same number of theorems, and we will still have a theorem:
```lean
 pow {x : Γ₁} {y : Γ₂} (hxy : h.Associatedₘ x y) (n : ℕ) : h.Associatedₘ (x ^ n) (y ^ n)
```
just that now it wouldn't be part of the "official" constructors.

What I'm trying to say is that the "official" constructors and destructors aren't that relevant, just like how nobody uses the official constructor of Finset (which is a Multiset with nodup).

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 8]
```diff
@@ -472,29 +474,442 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+    div_mul_eq_mul_div₀, div_mul_eq_mul_div₀,
+    le_div_iff₀ (zero_lt_iff.mpr hw), le_div_iff₀ (zero_lt_iff.mpr hw₂)]
+  exact Associatedₘ.le_iff_le (h := h) (.mul .value .value) (.mul .value .value)
+
+namespace Associated
+
+variable {h}
+
+theorem exists_eq {x : Γ₁} {y : Γ₂} (hxy : h.Associated x y) :
+    ∃ r₁ r₂, v₁ r₁ / v₁ r₂ = x ∧ v₂ r₁ / v₂ r₂ = y := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Should this just be the definition of Associated? Then the inductive definition can be an induction principle.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 9]
```diff
@@ -472,29 +474,442 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+form the associated expression `min (v₂ x) (v₂ y) * v₂ z` and a proof that they are associated.
+
+Allowed operations are: `0`, `1`, `v₁ r`, `^`, `*`, `min`, `max`. -/
+partial def mkAssociatedₘ (h : Q(Valuation.IsEquiv $v₁ $v₂)) (x : Q($Γ₁)) :
+    MetaM (Option ((y : Q($Γ₂)) × Q(Associatedₘ $h $x $y))) := do
+  match x with
+  | ~q(0) => return .some ⟨q(0), q(Associatedₘ.zero (h := $h))⟩
+  | ~q(1) => return .some ⟨q(1), q(Associatedₘ.one (h := $h))⟩
+  -- special matching for `v₁ r`
+  | mkApp6 (.const ``DFunLike.coe _) _ _ _ _ v₁? r? =>
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Why the special matching?

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I still don't understand why so much importance is put on the "official" definition. I thought the whole philosophy of API is that the "official" definition is irrelevant as long as we have all the lemmas we need.

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 9 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: MWE:
```lean
import Mathlib

open Qq Lean

def unapp {u : Level} {G H : Q(Type u)} {mG : Q(Group $G)} {mH : Q(Group $H)}
    (f : Q($G →* $H)) (y : Q($H)) : MetaM (Option Q($G)) := do
  trace[debug] m!"{f}, {y}"
  let ~q($f $x) := y | return .none
  return .some x
```
([Online](https://live.lean-lang.org/#codez=JYWwDg9gTgLgBAWQIYwBYBtgCMBQOJgCmAdnAIoCOcAMoUsXgCaEBmcArsUmGHAN7s4ALhqEAboXQBffgHE4ACWHkAFABUAnkQ4BKGXxDyRZFbKgR2vACSy9/EEuOnzluFYV6ccb3BVsnNnCASYQAVG4eOr4ayibuOpEiCIQwSAi+APJgMMAQpLG2CQC8cIwQXnAwUEgAxoQA2sxY7ADmALpwIACEAER8LFIANPwaUt3l6MlwAH4UKlZsVgAeRXDRAD5wUMnsUKQAdMS5hOVbMDv7AM4QIIRwizhAA))

Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: [fixed using French quotes thanks to Aaron Liu](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/How.20to.20learn.20to.20write.20tactics.3F/near/533954786)

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 7 above)
Comment (plp127) [reply Mathlib/RingTheory/Valuation/Basic.lean]: > Having more cases makes it easier to construct, but you can just prove the `pow` lemma directly from the others, so that's not a real justification. Whereas having more cases makes it harder to destruct, which isn't something that can be easily worked around. I don't see why you have the same number of constructors if you remove a constructor! And the only destructor that you intended is that one, but I don't think that's good enough reason to make destruction in someone else's manner harder.

You can say that about all the other constructors too, in fact all you need is `Associatedₘ.value` (that's what `exists_eq` is proving). You will still be proving all the same theorems.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 10]
```diff
@@ -472,29 +474,434 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
-    v₁ x = 1 ↔ v₂ x = 1 := by
+lemma eq_one_iff_eq_one : v₁ x = 1 ↔ v₂ x = 1 := by
   rw [← v₁.map_one, h.val_eq, map_one]
 
-lemma lt_one_iff_lt_one (h : v₁.IsEquiv v₂) {x : R} :
-    v₁ x < 1 ↔ v₂ x < 1 := by
+lemma lt_one_iff_lt_one : v₁ x < 1 ↔ v₂ x < 1 := by
   rw [← v₁.map_one, h.lt_iff_lt, map_one]
 
+/-- If `v₁.Equiv v₂`, then the value monoids of `v₁` and `v₂` are isomorphic, and this `Prop` is
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Valuation/Basic.lean]: > then the value monoids of `v₁` and `v₂` are isomorphic

Is this result in mathlib?

Comment (plp127) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Probably not, since it's false. I think the actual result is that the submonoids corresponding to the range of `R` are isomorphic.

Comment (pechersky) [reply Mathlib/RingTheory/Valuation/Basic.lean]: Specific examples of why they are not isomorphic. Take a valuation v. Create a valuation of rank one higher of v x_l w, for some disjoint valuation w. Then, v and v x_l  w are equivalent because of how the lexicographic order works.

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 1 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 7 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: resolved in zulip

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 10 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: I updated the description to be more precise.

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 8 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: resolved in zulip

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 11]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
-    v₁ x < 1 ↔ v₂ x < 1 := by
+lemma lt_one_iff_lt_one : v₁ x < 1 ↔ v₂ x < 1 := by
   rw [← v₁.map_one, h.lt_iff_lt, map_one]
 
+set_option linter.unusedVariables false in
+/-- If `v₁.Equiv v₂`, then the ranges of `v₁` and `v₂` are isomorphic. We can adjoin the inverses
+of elements of the ranges that are invertible in both monoids, and the two resulting monoids are
+also isomorphic.
+
+This `Prop` is precisely the relation saying that the isomorphism sends `x` to `y`.
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean]: I can't understand this docstring but I guess what you are trying to say is something like "if `v₁.Equiv v₂` then `Associated x y` means that `x` and `y` are equal under the isomorphism between the value groups.

Where "value group" is by definition the grothendieck group of the range.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 12]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+@[nolint unusedArguments]
+def Associated (h : v₁.IsEquiv v₂) (x : Γ₁) (y : Γ₂) : Prop :=
+  ∃ r s : R, IsUnit (v₁ s) ∧ IsUnit (v₂ s) ∧ v₁ r = x * v₁ s ∧ v₂ r = y * v₂ s
+
+namespace Associated
+
+variable {h} {x₁ x₂ : Γ₁} {y₁ y₂ : Γ₂} (h₁ : h.Associated x₁ y₁) (h₂ : h.Associated x₂ y₂)
+
+theorem value {r : R} : h.Associated (v₁ r) (v₂ r) :=
+  ⟨r, 1, by simp⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean]: I don't understand this name. Perhaps just `rfl`?

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 13]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+  refine ⟨fun ⟨r, s, i, j, e, f⟩ ↦ ⟨r, s, by simp [e, f, i.ne_zero, j.ne_zero]⟩, ?_⟩
+  rintro ⟨r, s, rfl, rfl⟩
+  have : v₁ s = 0 ↔ v₂ s = 0 :=
+    Associated.eq_iff_eq (h := h) .value .zero
+  by_cases hs : v₁ s = 0
+  · rw [hs, this.mp hs, div_zero, div_zero]
+    exact .zero
+  · have := this.not.mp hs
+    exact ⟨r, s, .mk0 _ hs, .mk0 _ this, by simp [hs, this]⟩
+alias ⟨Associated.exists_eq, Associated.intro⟩ := associated_iff_exists
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean:721]:
```suggestion

alias ⟨Associated.exists_eq, Associated.intro⟩ := associated_iff_exists
```

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 14]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+
+theorem one : h.Associated 1 1 := by
+  simpa using value (h := h) (r := 1)
+
+include h₁ h₂
+
+theorem mul : h.Associated (x₁ * x₂) (y₁ * y₂) := by
+  obtain ⟨r₁, s₁, u₁, v₁, e₁, f₁⟩ := h₁
+  obtain ⟨r₂, s₂, u₂, v₂, e₂, f₂⟩ := h₂
+  exact ⟨r₁ * r₂, s₁ * s₂, by simp [mul_mul_mul_comm, *]⟩
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Most of these probably should be protected.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 15]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+```lean
+example {R Γ₁ Γ₂ : Type*} [Ring R]
+    [LinearOrderedCommMonoidWithZero Γ₁] [LinearOrderedCommMonoidWithZero Γ₂]
+    {v₁ : Valuation R Γ₁} {v₂ : Valuation R Γ₂}
+    (h : v₁.IsEquiv v₂) :
+    {x | v₁ x ≤ 1} = {x | v₂ x ≤ 1} := by
+  rw_val_equiv h
+```
+-/
+elab "rw_val_equiv " symm?:(leftArrow)? e:(ppSpace colGt term:max) loc:(location)? : tactic => do
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean]: I do not like this name. In particular it is quite hard to guess that `val` actually means `valuation` without knowing what the tactic actually does.

File: Mathlib/RingTheory/Valuation/Basic.lean [hunk 16]
```diff
@@ -515,29 +518,382 @@ theorem map {v' : Valuation R Γ₀} (f : Γ₀ →*₀ Γ'₀) (hf : Monotone f
...
+  | .none => atTarget s
+  | .some loc => withLocation (expandLocation loc) (atLocal s) (atTarget s) default
+
+open Lean.Parser.Tactic
+
+/-- An alternate version of `rw_val_equiv` that calls `assumption` afterwards. -/
+macro "rwa_val_equiv " s:(leftArrow)? e:(ppSpace colGt term:max) loc:(location)? : tactic =>
+  match s with
+  | .none => `(tactic| (rw_val_equiv $e $[$loc]?; assumption))
+  | .some _ => `(tactic| (rw_val_equiv ← $e $[$loc]?; assumption))
```
Comment (erdOne) [inline Mathlib/RingTheory/Valuation/Basic.lean]: Is this the right implementation? In particular is there a chance where there are two goals remaining, the first closable by `rw_val_equiv` and the second closable by `assumption` and this would close both of them at once?

File: MathlibTest/Simproc/ValEquiv.lean [hunk 17]
```diff
@@ -0,0 +1,86 @@
...
+    min (v₂ x1) (v₂ y1) * min (v₂ x2) (v₂ y2) * min (v₂ x3) (v₂ y3) < 1 := by
+  rw_val_equiv h.symm
+  exact h'
+
+omit h in
+example {Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀]
+    (f : Γ₁ →*₀ Γ₀) (hf : Monotone f) (h : v₁.IsEquiv (v₁.map f hf)) :
+    {x | v₁.map f hf x < 1} = {x | v₁ x < 1} := by
+  rw_val_equiv h.symm
+
```
Comment (erdOne) [inline MathlibTest/Simproc/ValEquiv.lean]: Can you just move this before the `include`?

**Review by erdOne — COMMENTED** [review]
I have tried to review the non-meta code bits.

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 13 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean:721]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 11 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 12 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: changed to `apply`

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 14 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 16 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: not relevant anymore

File: MathlibTest/Simproc/ValEquiv.lean (hunk 17 above)
Comment (kckennylau) [reply MathlibTest/Simproc/ValEquiv.lean]: done

File: Mathlib/RingTheory/Valuation/Basic.lean (hunk 15 above)
Comment (kckennylau) [reply Mathlib/RingTheory/Valuation/Basic.lean]: done
